US06518293B2
5-(Benzyloxymethyl)-4-(3,5-dichlorophenoxy)-3-isopropyl-1-methyl-1,3-dihydro-2-imidazolone
To 115 mg of 4-(3,5-dichlorophenoxy)-5-hydroxymethyl-3-isopropyl-1-methyl-1,3-dihydro-2-imidazolone in 5 ml of dimethylformamide was added 15 mg of sodium hydride (60% dispersion in oil). The reaction mixture was stirred at rt for 30 min until hydrogen gas evolution had ceased. The solution was then treated with 45 μL of benzyl bromide and stirring continued for 1 h. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was separated, dried and evaporated to dryness to give 190 mg of an oily residue. This residue was purified by flash chromatography on silica gel using ethyl acetate/hexane (1:1) for the elution to give 41 mg of a colourless oil. Mass spectrum (ESI) m/z 421 [M+H]+.

reactant | 4-(3,5-dichlorophenoxy)-5-hydroxymethyl-3-isopropyl-1-methyl-1,3-dihydro-2-imidazolone | 115 mg | ClC=1C=C(OC=2N(C(N(C2CO)C)=O)C(C)C)C=C(C1)Cl | C14H16Cl2N2O3
reactant | sodium hydride | 15 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | benzyl bromide | 45 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-(Benzyloxymethyl)-4-(3,5-dichlorophenoxy)-3-isopropyl-1-methyl-1,3-dihydro-2-imidazolone | 190 mg | C(C1=CC=CC=C1)OCC1=C(N(C(N1C)=O)C(C)C)OC1=CC(=CC(=C1)Cl)Cl | C21H22Cl2N2O3
